US07067540B2
methyl 3-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzoate
The title compound was prepared by taking up methyl 3-[4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzoate (1.46 g, 3.66 mmol) in dichloroethane (25 ml) and adding N-chlorosuccinimide (0.49 g, 3.66 mmol), dichloroacetic acid (catalytic), and heating to 50° C. for 6 hours. At this time, the solvent was removed in vacuo and the residue taken up in diethyl ether. The precipitate was collected on a filter pad. 1H NMR (300 MHz, CDCl3) δ 8.07 (dd, J=7.85, 1.61 Hz, 1H), 7.80 (d, J=1.81 Hz, 2H), 7.62 (app q, J=8.46 Hz, 1H), 7.48 (d, J=7.85, 1H), 7.05-6.95 (m, 1H), 6.93-6.89 (m, 1H), 6.19 (s, 1H), 5.30 (s, 2H), 3.93 (s, 3H), 2.17 (s, 3H), 1.97 (s, 3H). ES-HRMS m/z 434.0932 (M+H calcd for C22H19ClF2NO4 requires 434.0965).

reactant | methyl 3-[4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzoate | 3.66 mmol, 1.46 g | FC1=C(COC2=CC(N(C(=C2)C)C=2C=C(C(=O)OC)C=CC2C)=O)C=CC(=C1)F | C22H19F2NO4
reactant | N-chlorosuccinimide | 3.66 mmol, 0.49 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dichloroacetic acid | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
product | methyl 3-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzoate | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C=1C=C(C(=O)OC)C=CC1C)=O | C22H18ClF2NO4
